US09216945B2
The Hydrogenation Step—Preparation of 2-methoxymethyl-1,4-benzenediamine
5 g (27.5 mmol) of 4-Nitro-2-methoxymethyl-aminobenzene and 0.250 g of palladium (10% on carbon) are placed in a 250 ml Parr bottle and 50 g of ethyl acetate is added. Hydrogenation is carried out using a Parr apparatus under 50-60 psig (64.7-74.7 psi or 446-515 kPa) of hydrogen pressure. In the course of the reaction the yellowish grey suspension turns to a darker grey suspension. The reaction is also carefully monitored for rapid hydrogen uptake and additional hydrogen is introduced to keep pressure above 50 psig (64.7 psi or 446 kPa). After 1 hour the suspension clears, leaving a yellow solution. The reaction is continued for 2.5 hours to ensure complete conversion. The catalyst is removed by filtration through glass microfiber filter paper. The filtrate is concentrated to ca. 25 ml, and 25 ml of toluene are added to precipitate the product. The product is collected on filter paper with suction and dried at 60° C. under vacuum. The product yield is 4.5 g.

reactant | 4-Nitro-2-methoxymethyl-aminobenzene | 27.5 mmol, 5 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)COC | C8H10N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 0.250 g | [Pd] | Pd
solvent | ethyl acetate | 50 g | C(C)(=O)OCC | C4H8O2
product | 2-methoxymethyl-1,4-benzenediamine | COCC1=C(C=CC(=C1)N)N | C8H12N2O
